US06590118B1
4-(2-Aminophenoxy)phthalonitrile (1.55 g, 6.6 mmol) was stirred with conc. sulphuric acid (9 ml) at room temperature for 15 hours. The mixture was purred into crushed ice and the pH was adjusted to 10 with diluted sodium hydrogencarbonate in water. The mixture was left for the weekend at room temperature. The resulting precipitate was filtered off and washed twice with water (2×50 ml). The crystals were dried to give yellow crystals of 5-(2-aminophenoxy)isoindole-1,3dione) (yield: 1.41 g (84%)). Mp: 211.6-211.9° C.

reactant | 4-(2-Aminophenoxy)phthalonitrile | 6.6 mmol, 1.55 g | NC1=C(OC=2C=C(C(C#N)=CC2)C#N)C=CC=C1 | C14H9N3O
reactant | sulphuric acid | 9 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
product | 5-(2-aminophenoxy)isoindole-1,3dione | NC1=C(OC=2C=C3C(NC(C3=CC2)=O)=O)C=CC=C1 | C14H10N2O3
